US09334366B2
To a solution 5 g (28.1 mmol) of 4-Hydroxycinnamic acid methyl ester, 4.9 g (35.1 mmol) of 4 bromopropanol, 9.2 g (35.1 mmol) of triphenylphosphine in 100 mL of THF are added 7.1 g (35.1 mmol) of diisopropylazodicarboxylate under inert atmosphere. The solution is heated up to reflux and allowed to stir overnight. After 20 hours, the reaction mixture is partitioned between EtOAc and water. The organic phase is washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation to give 7.5 g of (methyl (2E)-3-[4-(3-bromopropoxy)phenyl]prop-2-enoate.

reactant | 4-Hydroxycinnamic acid methyl ester | 28.1 mmol, 5 g | COC(C=CC1=CC=C(C=C1)O)=O | C10H10O3
reactant | bromopropanol | BrC(CC)O | C3H7BrO
reactant | triphenylphosphine | 35.1 mmol, 9.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 35.1 mmol, 7.1 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl (2E)-3-[4-(3-bromopropoxy)phenyl]prop-2-enoate | BrCCCOC1=CC=C(C=C1)/C=C/C(=O)OC | C13H15BrO3
